US06352982B1
To a solution of 2-amino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol (0.7 g) in methanol (7 ml) were added benzaldehyde (229 mg) and acetic acid (130 mg). The mixture was stirred for 10 minutes at room temperature, to which was added sodium cyano-borohydride (135 mg). The mixture was stirred for 30 minutes at room temperature, to which was added ethyl acetate ester (50 ml). The mixture was washed with water and dried over anhydrous MgSO4, followed by distilling off the solvent. The residue was purified by means of a silica gel column chromatography to give the object 2-benzylamino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol (0.91 g) as a colorless oily compound.

reactant | 2-amino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol | 0.7 g | NC1=C(C(C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)O)C=C(C=C1)Cl | C19H23ClN2O3
reactant | benzaldehyde | 229 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | acetic acid | 130 mg | C(C)(=O)O | C2H4O2
reactant | sodium cyano-borohydride | 135 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 7 ml | CO | CH4O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-benzylamino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol | 0.91 g | C(C1=CC=CC=C1)NC1=C(C(C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)O)C=C(C=C1)Cl | C26H29ClN2O3
